US07829570B2
1H-Pyrazolo[4,3-d]pyrimidin-7-amine
4-Nitro-1H-5-pyrazolecarbonitrile (6.25 g, 45.3 mmol) in ethanol (100 mL) was treated with 10% Palladium on carbon (0.50 g) and hydrogenated in a Parr shaker at 50 psi for 18 hours. The catalyst was removed by filtration through a pad of diatomaceous earth. The filtrate was then treated with formamidine acetate (37.7 g, 0.363 mol) then the mixture was heated at reflux for one hour. The mixture was cooled and then approximately 50 mL of the solvent was removed under reduced pressure. The precipitate which formed was isolated by filtration and washed with ethyl acetate (3×25 mL) then discarded. The filtrate was concentrated under reduced pressure to a volume of approximately 40 mL. The mixture was heated to dissolve all of the material then applied to a silica gel column which was eluted with ethyl acetate/methanol (8:2). The appropriate fractions were concentrated to give the title compound (3.85 g, 61%) which contained 18% formamidine acetate by weight as determined by 1H NMR: 1H NMR (DMSO-d6, 400 MHz) δ 13.3 bs, 1H), 8.15 (s, 1H) 8.07 (s, 1H), 7.47 (bs, 2H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 4.95 min; MS: MH+ 136.1, M−H+ 134.1

reactant | 4-Nitro-1H-5-pyrazolecarbonitrile | 45.3 mmol, 6.25 g | [N+](=O)([O-])C=1C=NNC1C#N | C4H2N4O2
reactant | formamidine acetate | 0.363 mol, 37.7 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.50 g | [Pd] | Pd
product | 1H-Pyrazolo[4,3-d]pyrimidin-7-amine | 3.85 g, 61% | N1N=CC=2N=CN=C(C21)N | C5H5N5
